US04904675
Hexadecyl 2-(5-tetrazolyl)-pyridine-5-carboxylate
A mixture of 1.65 g (8.6 mmol) of 5-carboxy-2-(5-tetrazolyl)-pyridine , 0.1 ml of concentrated sulfuric acid and 3.64 g (15 mmol) of 1-hexadecanol in 50 ml of toluene is refluxed for 48 h. The hot solution is filtered in order to eliminate the non-reacted starting material. The filtrate on cooling yields crystals of the title compound, m.p. 139°-140°.

reactant | 5-carboxy-2-(5-tetrazolyl)-pyridine | 8.6 mmol, 1.65 g | C(=O)(O)C=1C=CC(=NC1)C1=NN=NN1 | C7H5N5O2
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-hexadecanol | 15 mmol, 3.64 g | C(CCCCCCCCCCCCCCC)O | C16H34O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Hexadecyl 2-(5-tetrazolyl)-pyridine-5-carboxylate | N1N=NN=C1C1=NC=C(C=C1)C(=O)OCCCCCCCCCCCCCCCC | C23H37N5O2
